US09023851B2
6-({2-[(3,5-Dimethylphenyl)amino][1,2,4]triazolo[1,5-a]pyrazin-8-yl}amino)-2,2-difluoro-2H-1,4-benzoxazin-3(4H)-one (“C59”)
8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(3,5-dimethyl-phenyl)-amine (0.075 g, 0.2 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.01 g, 0.01 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.01 g, 0.02 mmol) and 6-amino-2,2-difluoro-2H-1,4-benzoxazin-3(4H)-one (0.049 g, 0.2 mmol) are taken in dry 1,4 dioxane (2 mL). Sodiumhexamethyldiisilylamide (1 M in tetrahydrofuran) (0.27 mL, 0.2 mmol) is added and the reaction irradiated in the microwave at 150° C. for 30 minutes. The reaction mixture is quenched with dry methanol (1 mL) and passed through a celite pad. The filtrate is concentrated and purified by flash column chromatography using Silica gel (230-400) mesh to get the titled product as an off white solid (10 mg, 10.4%). TLC: pet ether/ethylacetate (6/4) Rf-0.4. LCMS (method A): mass found (M+H+, 438), Rt (min): 5.11 area % 93.7 (max), 94.4 (254 nm); 1H NMR (400 MHz, DMSO-d6): δ [ppm] 11.99 (s, 1H), 9.63 (s, 1H), 9.39 (s, 1H), 8.27 (d, J=4.48 Hz, 1H), 7.93 (d, J=2.44 Hz, 1H), 7.63 (m, 1H), 7.57 (d, J=4.48 Hz, 1H), 7.35 (s, 2H), 7.27 (d, J=8.92 Hz, 1H), 6.55 (s, 1H), 2.25 (s, 6H).

reactant | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(3,5-dimethyl-phenyl)-amine | 0.2 mmol, 0.075 g | ClC=1C=2N(C=CN1)N=C(N2)NC2=CC(=CC(=C2)C)C | C13H12ClN5
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.02 mmol, 0.01 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 6-amino-2,2-difluoro-2H-1,4-benzoxazin-3(4H)-one | 0.2 mmol, 0.049 g | NC=1C=CC2=C(NC(C(O2)(F)F)=O)C1 | C8H6F2N2O2
solvent | 1,4 dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 0.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-({2-[(3,5-Dimethylphenyl)amino][1,2,4]triazolo[1,5-a]pyrazin-8-yl}amino)-2,2-difluoro-2H-1,4-benzoxazin-3(4H)-one | CC=1C=C(C=C(C1)C)NC1=NN2C(C(=NC=C2)NC=2C=CC3=C(NC(C(O3)(F)F)=O)C2)=N1 | C21H17F2N7O2
